US04843068
N-Tert-butyl 4-[{-(4-methoxyphenoxy)-1,3-dimethylpyrazol-4-yl}methyleneaminomethyl]benzamide (compound No. 525)
1.0 Gram (0.0038 mole) of 5-(4-methoxyphenoxy)-1,3-dimethylpyrazole-4-carbaldehyde oxime, 0.86 g (0.0038 mole) of N-tert-butyl-4-chloromethylbenzamide and 1.0 g (0.0072 mole) of potassium carbonate were added to 20 ml of acetonitrile, and the resulting mixture was heated under reflux for 6 hours. After completion of the reaction, acetonitrile was removed by evaporation under reduced pressure, after which water was added to the residue and extraction was carried out with ethyl acetate. The ethyl acetate extract was washed with water and dried, and ethyl acetate was removed by evaporation to obtain an oily product. This oily product was column-chromatographed on silica gel to obtain 1.4 g of the desired compound.

reactant | 5-(4-methoxyphenoxy)-1,3-dimethylpyrazole-4-carbaldehyde oxime | 0.0038 mole | COC1=CC=C(OC2=C(C(=NN2C)C)C=NO)C=C1 | C13H15N3O3
reactant | N-tert-butyl-4-chloromethylbenzamide | 0.0038 mole, 0.86 g | C(C)(C)(C)NC(C1=CC=C(C=C1)CCl)=O | C12H16ClNO
reactant | potassium carbonate | 0.0072 mole, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | N-Tert-butyl 4-[{-(4-methoxyphenoxy)-1,3-dimethylpyrazol-4-yl}methyleneaminomethyl]benzamide | 1.4 g, Yield 82% | C(C)(C)(C)NC(C1=CC=C(C=C1)CN=CC=1C(=NN(C1OC1=CC=C(C=C1)OC)C)C)=O | C25H30N4O3
